US05506256
To N-(4-phenylbutyryl)-L-proline benzyl ester (9.31 g) in 99% methanol (100 ml) was added 10% Pd--C (0.90 g), and the mixture was stirred at room temperature in hydrogen stream for 2 hours. The catalyst was filtered off with celite, and the filtrate was concentrated to give 6.26 g of N-(4-phenylbutyryl)-L-proline.

reactant | N-(4-phenylbutyryl)-L-proline benzyl ester | 9.31 g | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C(CCCC1=CC=CC=C1)=O)=O | C22H25NO3
solvent | methanol | 100 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
product | N-(4-phenylbutyryl)-L-proline | 6.26 g | C1(=CC=CC=C1)CCCC(=O)N1[C@H](C(=O)O)CCC1 | C15H19NO3
